US04207341
7.6 g 4-Aminophenylacetic acid are dissolved in 50 ml 2 N aqueous sodium hydroxide solution and 50 ml acetone. A solution of 8.8 g 4-chlorobenzoyl chloride in 10 ml acetone is added dropwise thereto at 0° C. The reaction mixture is further stirred for 3 hours at ambient temperature, then diluted with water, filtered and the filtrate acidified with dilute hydrochloric acid. The precipitate obtained is reprecipitated via its sodium salt and recrystallized from ethanol. There are obtained 4.2 g (29% of theory) 4-(4-chlorobenzamido)-phenylacetic acid; m.p. 252° C.

reactant | 4-Aminophenylacetic acid | 7.6 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | 4-chlorobenzoyl chloride | 8.8 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-(4-chlorobenzamido)-phenylacetic acid | 4.2 g, 29% | ClC1=CC=C(C(=O)NC2=CC=C(C=C2)CC(=O)O)C=C1 | C15H12ClNO3
